US06943160B2
To (RS)-4-benzyl-5-oxo-morpholine-3-carboxylic acid (2.0 g, 8.51 mmol) in MDC (40 ml) was slowly added oxalyl chloride (1.51 ml, 17.1 mmol). The mixture was stirred for 0.5 h at room temperature and then evaporated to give (RS)-4-benzyl-5-oxomorpholine-3-carbonyl chloride as a brown solid (1.99 g, 92%). Ammonia gas was bubbled steadily through a solution of (RS)-4-benzyl-5-oxomorpholine-3-carbonyl chloride (1.99 g, 7.79 mmol) in MDC (40 ml) at 0° C. for 0.5 h, and then the mixture allowed to warm to room temperature. The solid was collected by filtration, washed with MDC (30 ml) and dried in vacuo at 40° C. to give the title compound as a white solid (2.1 g, 99%). Mass spectrum (API+): Found 235 (MH30 ). C12H14N2O3 requires 234.

reactant | (RS)-4-benzyl-5-oxo-morpholine-3-carboxylic acid | 8.51 mmol, 2.0 g | C(C1=CC=CC=C1)N1C(COCC1=O)C(=O)O | C12H13NO4
reactant | oxalyl chloride | 17.1 mmol, 1.51 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (RS)-4-benzyl-5-oxomorpholine-3-carbonyl chloride | 1.99 g, 92% | C(C1=CC=CC=C1)N1C(COCC1=O)C(=O)Cl | C12H12ClNO3
